US05698560
According to a similar manner as that in Reference Example 36 except that 2-cyanophenol, 1-bromo-3-chloropropane, and piperidine were used, 2-(3-piperidinopropoxy)benzonitrile (77%) was obtained as a crude product.

reactant | 2-cyanophenol | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(3-piperidinopropoxy)benzonitrile | 77% | N1(CCCCC1)CCCOC1=C(C#N)C=CC=C1 | C15H20N2O
